US07148250B2
To a solution of triphenylphosphine (1.196 g, 4.56 mmol) in THF (10 mL) was added diisopropyl azodicarboxylate (0.9 mL; 4.56 mmol) at 0° C., and the mixture was stirred at 0° C. for 30 minutes. A solution of methyl 3-(2-hydroxyethyl)-1H-indole-2-carboxylate (1.000 g of the above material) and thioacetic acid (0.34 mL, 4.76 mmol) in THF (5 mL) was dropwise added to the mixture at 0° C. The reaction mixture was stirred at 0° C. for 2 hours. The solvent was removed under a reduced pressure and the residue was purified by column chromatography (5 to 10% EtOAc in hexanes) to afford methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate (0.864 g, 63% for the three steps) as a white solid: 1H NMR (DMSO-d6) 2.35 (s, 3H), 3.10–3.16 (m, 2H), 3.28–3.35 (m, 2H), 3.92 (s, 3H), 7.13 (t, J=7.3 Hz, 1H), 7.31 (t, J=7.5 Hz, 1H), 7.47 (d, J=8.3 Hz, 1H), 7.77 (d, J=8.1 Hz, 1H).

reactant | triphenylphosphine | 4.56 mmol, 1.196 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.56 mmol, 0.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 3-(2-hydroxyethyl)-1H-indole-2-carboxylate | OCCC1=C(NC2=CC=CC=C12)C(=O)OC | C12H13NO3
reactant | thioacetic acid | 4.76 mmol, 0.34 mL | C(C)(=S)O | C2H4OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate | C(C)(=O)SCCC1=C(NC2=CC=CC=C12)C(=O)OC | C14H15NO3S
